US08236808B2
Step 2: {4-[3-(3-Chloro-4-ethoxy-phenyl)-ureido]-butyl}-{2-[(3,5-diamino-6-chloro-pyrazine-2-carbonyl)-amino]-ethyl}-[3-(4-methoxy-phenyl)-propyl]-methyl-ammonium bromide
A mixture comprising 3,5-diamino-6-chloro-pyrazine-2-carboxylic acid [2-({4-[3-(3-chloro-4-ethoxy-phenyl)-ureido]-butyl}-methyl-amino)-ethyl]-amide trifluoroacetate (435 mg, 0.85 mmol), 1-(3-bromo-propyl)-4-methoxy-benzene (1.83 g, 7.99 mmol) and sodium carbonate (270 mg, 2.54 mmol) in acetone (8 mL) is heated at reflux for 11 days. After cooling to RT, the mixture is filtered and concentrated in vacuo. DCM is added and the precipitated solid is collected by filtration. The solid is crystallised from ethanol to afford the title compound. M+ 661. 1H NMR (400 MHz, DMSO-d6) δ 8.50 (1H, s), 8.29 (1H, t), 7.63 (2H, br), 7.62 (1H, d), 7.15 (1H, dd), 7.10 (2H, d), 6.99 (1H, d), 6.93 (2H, br), 6.81 (2H, d), 6.23 (1H, t), 4.01 (2H, q), 3.71 (3H, s), 3.61-3.56 (2H, m), 3.39-3.29 (4H, m), 3.08 (2H, q), 3.03 (3H, s), 2.49 (2H, t), 2.00-1.91 (2H, m), 1.72-1.64 (2H, m), 1.42 (2H, quint), 1.32 (3H, t).

reactant | 3,5-diamino-6-chloro-pyrazine-2-carboxylic acid [2-({4-[3-(3-chloro-4-ethoxy-phenyl)-ureido]-butyl}-methyl-amino)-ethyl]-amide trifluoroacetate | 0.85 mmol, 435 mg | FC(C(=O)O)(F)F.ClC=1C=C(C=CC1OCC)NC(NCCCCN(CCNC(=O)C1=NC(=C(N=C1N)N)Cl)C)=O
reactant | 1-(3-bromo-propyl)-4-methoxy-benzene | 7.99 mmol, 1.83 g | BrCCCC1=CC=C(C=C1)OC | C10H13BrO
reactant | sodium carbonate | 2.54 mmol, 270 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetone | 8 mL | CC(=O)C | C3H6O
product | {4-[3-(3-Chloro-4-ethoxy-phenyl)-ureido]-butyl}-{2-[(3,5-diamino-6-chloro-pyrazine-2-carbonyl)-amino]-ethyl}-[3-(4-methoxy-phenyl)-propyl]-methyl-ammonium bromide | [Br-].ClC=1C=C(C=CC1OCC)NC(NCCCC[N+](C)(CCCC1=CC=C(C=C1)OC)CCNC(=O)C1=NC(=C(N=C1N)N)Cl)=O | InChI=1S/C31H42Cl2N8O4.BrH/c1-4-45-25-14-11-22(20-24(25)32)38-31(43)37-15-5-6-17-41(2,18-7-8-21-9-12-23(44-3)13-10-21)19-16-36-30(42)26-28(34)40-29(35)27(33)39-26;/h9-14,20H,4-8,15-19H2,1-3H3,(H6-,34,35,36,37,38,40,42,43);1H
